### PR TITLE
Bump to v4.18.0

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**

### CODE REVIEW

File: Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean [hunk 1]
```diff
@@ -69,8 +69,10 @@ theorem lintegral_mul_le_eLpNorm_mul_eLqNorm {p q : ℝ≥0∞} (hpq : p.IsConjE
     apply le_of_le_of_eq <| lintegral_mono_ae ((ae_le_essSup f).mono (fun a ha ↦ mul_right_mono ha))
     simp [eLpNorm, eLpNorm', eLpNormEssSup, hp, hpq.conj_eq, lintegral_const_mul'' _ hg]
   push_neg at pq_top
-  convert ENNReal.lintegral_mul_le_Lp_mul_Lq μ (hpq.toReal pq_top.1 pq_top.2) hf hg
-  all_goals simp [eLpNorm, eLpNorm', hpq.ne_zero, hpq.symm.ne_zero, pq_top]
+  have hp : p ≠ 0 := HolderConjugate.ne_zero p q
+  have hq : q ≠ 0 := HolderConjugate.ne_zero q p
+  convert ENNReal.lintegral_mul_le_Lp_mul_Lq μ (hpq.toReal sorry) hf hg
```
Comment (Ruben-VandeVelde) [inline Carleson/ToMathlib/MeasureTheory/Integral/MeanInequalities.lean:74]: Would be good to fix this sorry before landing
